US08466282B2
Tert-butyl (3S,5R)-3-[({5-[(diethoxyphosphoryl)methyl]-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[5-(bromomethyl)-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (440 mg) was dissolved in DMF (4 ml), triethyl phosphate (295 μl) was added and the mixture was stirred at 110° C. for 12 hr. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the object product (473 mg).

reactant | tert-Butyl (3S,5R)-3-[{[5-(bromomethyl)-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 440 mg | BrCC1=C(N=NN1C1=C(C=CC=C1)F)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H40BrFN6O5
reactant | triethyl phosphate | 295 μl | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl (3S,5R)-3-[({5-[(diethoxyphosphoryl)methyl]-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 473 mg | C(C)OP(=O)(OCC)CC1=C(N=NN1C1=C(C=CC=C1)F)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50FN6O8P
